US05274100
20 g of Raney nickel catalyst are added to a solution of 196 g of 2-(4-(5-chloro-3-nitropyridin-2-yloxy)phenoxy)propionic acid in 615 g of dioxane, and hydrogenation is subsequently carried out at 20°-22° C. under normal pressure. After separating the catalyst the solvent is removed, giving 98 g of 2-(4-(5-chloro-3-aminopyridin-2-yloxy)phenoxy)propionic acid as crude product (55% of theory) which has a melting point of 152°-154° C. and can be recrystallised from toluene.

reactant | 2-(4-(5-chloro-3-nitropyridin-2-yloxy)phenoxy)propionic acid | 196 g | ClC=1C=C(C(=NC1)OC1=CC=C(OC(C(=O)O)C)C=C1)[N+](=O)[O-] | C14H11ClN2O6
catalyst | Raney nickel | 20 g | [Ni] | Ni
solvent | dioxane | 615 g | O1CCOCC1 | C4H8O2
product | 2-(4-(5-chloro-3-aminopyridin-2-yloxy)phenoxy)propionic acid | 98 g | ClC=1C=C(C(=NC1)OC1=CC=C(OC(C(=O)O)C)C=C1)N | C14H13ClN2O4
